US04229449
To a solution of 7 g of 2-[α-(2-nitro-phenoxy)-benzyl]-4-methyl-morpholin-5-one in 200 ml of DMF, 5% Palladium-charcoal (0.7 g) was added and the mixture was hydrogenated at 3.5 atmospheres for 0.5 hours. The catalyst was filtered off, the solution was poured into water and then extracted with ethyl acetate. After anhydrification and evaporation to dryness of the solvent, crystallization from ethyl ether gave 2-[α-(2-amino-phenoxy)-benzyl]-4-methyl-morpholin-5-one, m.p. 167°-170° C. (5.3 g; 75.2%).

reactant | 2-[α-(2-nitro-phenoxy)-benzyl]-4-methyl-morpholin-5-one | 7 g | [N+](=O)([O-])C1=C(OC(C2=CC=CC=C2)C2CN(C(CO2)=O)C)C=CC=C1 | C18H18N2O5
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
catalyst | Palladium-charcoal | 0.7 g | [Pd] | Pd
product | 2-[α-(2-amino-phenoxy)-benzyl]-4-methyl-morpholin-5-one | NC1=C(OC(C2=CC=CC=C2)C2CN(C(CO2)=O)C)C=CC=C1 | C18H20N2O3
